US05213699
N,N'-Dibenzyl-N,N'-diphenyl-p-phenylenediamine
A solution of N,N'-diphenyl-p-phenylenediamine (26 g, 0.1 mol) in toluene (400 ml) is treated sequentially with powdered potassium hydroxide (19.3 g, 0.3 mol), potassium iodide (1.7 g, 0.01 mol) and tetrabutylammonium bromide (1.6 g, 0.005 mol). The resulting mixture is vigorously stirred while benzyl chloride (27.9 g, 0.22 mol) is added dropwise. The mixture is slowly warmed to 90° C. over a one-hour period and then held there for four hours. The mixture is allowed to cool and methylene chloride (100 ml) is added. The resulting mixture is filtered and concentrated to a solid that is washed with water and dried. The title compound is obtained in a yield of 24.8 g (56%) as a tan solid melting at 145°-150° C.

reactant | N,N'-diphenyl-p-phenylenediamine | 0.1 mol, 26 g | C=1C=CC(=CC1)NC=2C=CC(=CC2)NC=3C=CC=CC3 | C18H16N2
reactant | potassium hydroxide | 0.3 mol, 19.3 g | [OH-].[K+]
reactant | potassium iodide | 0.01 mol, 1.7 g | [I-].[K+]
reactant | benzyl chloride | 0.22 mol, 27.9 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 0.005 mol, 1.6 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N,N'-Dibenzyl-N,N'-diphenyl-p-phenylenediamine | C(C1=CC=CC=C1)N(C1=CC=C(C=C1)N(C1=CC=CC=C1)CC1=CC=CC=C1)C1=CC=CC=C1 | C32H28N2
